US03932658
2 g of sodium salt of 4-(β-<2-methoxy-5-chlorobenzamido>-ethyl)-benzenesulfonamide and 2.2 g of N,N'-dicyclopentyl-urea (m.p. 248° - 249°C, prepared from cyclopentyl-isocyanate and cyclopentyl-amine) were well mixed in a mortar. The mixture was heated to 220°C for 10 minutes in an Erlenmeyer flask on a pre-heated oil bath. After cooling, the sintered reaction cake was treated with 0.5 %-ammonia. After filtration, the filtrate was acidified and a precipitate was obtained which was separated by suction-filtration and dissolved once more in 0.5 %-ammonia. After filtration, the filtrate was acidified. The precipitate of crude N-[4-(β-<2-methoxy-5-chlorobenzamide>-ethyl)-benzenesulfonyl]-N'-cyclopentyl-urea that had separated was isolated by suction-filtration and dried. By treatment with methanol an at first smeary and then crystalline substance was obtained, which after suction-filtration, was once more recrystallized from methanol. The melting point of N-[4-(β-<2-methoxy-5-chloro-benzamido>-ethyl)-benzenesulfonyl]-N'-cyclopentyl-urea obtained was 182° - 184°C.

reactant | sodium | 2 g | [Na] | Na
reactant | benzenesulfonamide | C1(=CC=CC=C1)S(=O)(=O)N | C6H7NO2S
reactant | N,N'-dicyclopentyl-urea | 2.2 g | C1(CCCC1)NC(=O)NC1CCCC1 | C11H20N2O
reactant | ammonia | N | H3N
product | N'-cyclopentyl-urea | C1(CCCC1)NC(N)=O | C6H12N2O
